US07507729B2
a) (4,6-Dimethyl-2-oxo-2H-pyridin-1-yl)-acetic acid hydrazide
As described for example 112a, (4,6-dimethyl-2-oxo-2H-pyridin-1-yl)-acetic acid ethyl ester (Shusherina, N. P.; Slavyanova, O. V.; Petrova, L. K.; Levina, R. Ya. Zhurnal Organicheskoi Khimii (1972), 8(2), 387-9) in ethanol was reacted with hydrazine hydrate (1.2 equivalents) at rt for 120 h. The mixture was concentrated and crystallized from ethanol/diisopropylether and the title compound was obtained as a white solid (yield. 90%). MS: m/e=218.2 [M+Na]+.

reactant | (4,6-dimethyl-2-oxo-2H-pyridin-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C(C=C(C=C1C)C)=O)=O | C11H15NO3
reactant | hydrazine hydrate | 1.2 equivalents | O.NN
solvent | ethanol | C(C)O | C2H6O
product | (4,6-Dimethyl-2-oxo-2H-pyridin-1-yl)-acetic acid hydrazide | CC1=CC(N(C(=C1)C)CC(=O)NN)=O | C9H13N3O2
